US08350044B2
Preparation of [4-fluoro-2-(5-fluoro-pyridin-3-yl)-thiazol-5-yl]-carbamic acid tert-butyl ester (Compound 353)
To a solution of di(tert-butyl) 4-fluoro-2-(5-fluoropyridin-3-yl)-1,3-thiazol-5-ylimidodicarbonate (320 mg, 0.77 mmol) in DCM (7 mL) was added trifluoroacetic acid (TFA) (0.7 mL). The solution was stirred at room temperature for 10 minutes, before quenched slowly with saturated NaHCO3 solution. The organic layer was separated and the aqueous layer was extracted with dichloromethane (DCM). The combined organic layer was dried over Na2SO4, filtered and purified by silica gel chromatography (0 to 100% ethyl acetate/hexanes) to give product as a pale yellow solid (166 mg, 68%): mp 188-191° C.; 1H NMR (300 MHz, CDCl3) δ 8.84 (s, 1H), 8.46 (d, J=2.7 Hz, 1H), 7.85 (ddd, J=9.1, 2.6, 1.7 Hz, 1H), 6.92 (br s, 1H), 1.55 (s, 9H); ESIMS m/z 312 (M-1).

reactant | di(tert-butyl) 4-fluoro-2-(5-fluoropyridin-3-yl)-1,3-thiazol-5-ylimidodicarbonate | 0.77 mmol, 320 mg | FC=1N=C(SC1N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=1C=NC=C(C1)F | C18H21F2N3O4S
reactant | trifluoroacetic acid | 0.7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 7 mL | ClCCl | CH2Cl2
product | [4-fluoro-2-(5-fluoro-pyridin-3-yl)-thiazol-5-yl]-carbamic acid tert-butyl ester | 166 mg, 68% | C(C)(C)(C)OC(NC1=C(N=C(S1)C=1C=NC=C(C1)F)F)=O | C13H13F2N3O2S
